US04483863
Preparation of 1-cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane (1.09 g) and sodium cyanide (0.6 g) in dimethylformamide (30 ml) were heated at 65°-70° C. for 1 hour. The reaction mixture was then cooled, poured into water (150 ml), and extracted with ethyl acetate (3×25 ml). The combined organic extracts were washed with saturated aqueous brine, dried (Na2SO4) and evaporated to dryness to give a pale yellow solid (0.76 g) which was triturated with ether. The residual solid was recrystallised from ether/methanol to give the title compound 285 mg (24%), m.p. 217°-219° C. Found: C,48.3; H,3.4; N,18.4. Calculated for C12H10Cl2N4O: C,48.5; H,3.4; N,18.8%.

reactant | 2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane | 1.09 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1 | C11H9Cl2N3O
reactant | sodium cyanide | 0.6 g | [C-]#N.[Na+]
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.76 g | C(#N)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N4O
